US06458784B1
c) (±)-1-Acetyl-7-[[(6-amino-2-pyridinyl)amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid
1 N NaOH (1.0 mL, 1.0 mmol) was added to a cold solution of methyl (±)-1-acetyl-7-[[(6-amino-2-pyridinyl)amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (0.23 g, 0.54 mmol), MeOH (2 mL) and H2O (1 mL). The solution was stirred at room temperature for 18 h then was concentrated. Chromatography (ODS, 10% CH3CN/H2O-0.1% TFA) gave the title compound (0.215 g, 90%): 1H NMR (400 MHz, DMSO-d6) δ1.7-1.9 (s, 3H), 2.0-2.6 (m, 2H), 3.0-3.1 (s, 3H), 4.1-4.2 (d, 1H), 4.7-4.8 (d, 1H), 5.7-5.9 (m, 1H), 6.4-6.5 (d, 1H), 7.0-7.1 (d, 1H), 7.5-7.6 (d, 1H), 7.6-7.8 (t, 1H), 8.0-8.1 (d, 1H), 8.2-8.3 (s, 1H); MS (ES) m/e 412.2 (M+H)+. Anal. Calcd for C20H21N5O5.2.75 CF3CO2H: C, 42.25; H, 3.30; N, 9.66. Found: C, 42.01; H, 3.25; N, 9.85.

reactant | NaOH | 1.0 mmol, 1 N, 1.0 mL | [OH-].[Na+]
reactant | methyl (±)-1-acetyl-7-[[(6-amino-2-pyridinyl)amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.54 mmol, 0.23 g | C(C)(=O)N1C(C(N(CC2=C1C=CC(=C2)C(=O)NC2=NC(=CC=C2)N)C)=O)CC(=O)OC | C21H23N5O5
reactant | MeOH | 2 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | (±)-1-Acetyl-7-[[(6-amino-2-pyridinyl)amino]carbonyl]-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid | 0.215 g, 90% | C(C)(=O)N1C(C(N(CC2=C1C=CC(=C2)C(=O)NC2=NC(=CC=C2)N)C)=O)CC(=O)O | C20H21N5O5
